US08334295B2
To a stirred solution of 6-chloro-1-ethyl-5-isopropyl-3-methoxymethyl-1H-pyrimidine-2,4-dione (1.43 g, 5.48 mmol) and 3-cyano-5-methylbenzyl cyanide (857 mg, 5.48 mmol) in DMF (12 mL) in a water bath, was added 60% NaH (483 mg, 12 mmol). After 15 min., the mixture was stirred at room temperature for overnight. Excess ammonium chloride was added to the mixture and stirring was continued for 1 hr. The mixture was then evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, ethyl acetate:hexane (from 1:4 to 2:3)) to give 1.6 g (80%) of 3-[cyano-(3-ethyl-5-isopropyl-1-methoxymethyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-methyl]-5-methyl-benzonitrile as a yellow solid. m.p. 202-205° C.; 1H-NMR (200 MHz, DMSO-d6) δ 0.77 (3H, d, J=6.8 Hz), 1.10 (3H, t, J=6.8 Hz), 1.20 (3H, d, J=6.8 Hz), 2.40 (3H, s), 2.55 (1H, m), 3.71 (1H, m), 4.05 (1H, m), 5.21 (2H, dd, J=11.2 Hz, J=9.4 Hz), 6.26 (1H, s), 7.60 (1H, s), 7.69 (1H, s), 7.73 (1H, s); m/z (EI) 380 (M+).

reactant | 6-chloro-1-ethyl-5-isopropyl-3-methoxymethyl-1H-pyrimidine-2,4-dione | 5.48 mmol, 1.43 g | ClC1=C(C(N(C(N1CC)=O)COC)=O)C(C)C | C11H17ClN2O3
reactant | 3-cyano-5-methylbenzyl cyanide | 5.48 mmol, 857 mg | C(#N)C=1C=C(CC#N)C=C(C1)C | C10H8N2
reactant | NaH | 12 mmol, 483 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 3-[cyano-(3-ethyl-5-isopropyl-1-methoxymethyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-methyl]-5-methyl-benzonitrile | 1.6 g, 80% | C(#N)C(C=1C=C(C#N)C=C(C1)C)C=1N(C(N(C(C1C(C)C)=O)COC)=O)CC | C21H24N4O3
